US04045576
Sodium 2-amino-3-benzoyl-α-methylphenylacetate Hydrate.
A suspension of 9 g. (0.036 mole) of 7-benzoyl-3-methylindolin-2-one in 100 ml. of 3N sodium hydroxide was refluxed for 18 hrs. under nitrogen. The mixture was filtered and stripped under water pump vacuum to yield a gummy mixture of sodium hydroxide, water, and product. The mixture was triturated with boiling isopropanol and filtered. The isopropanol solution was cooled and filtered to separate the bright yellow product. The product weighed 4.0 g. and melted at 218° C. (dec.)

reactant | 7-benzoyl-3-methylindolin-2-one | 0.036 mole | C(C1=CC=CC=C1)(=O)C=1C=CC=C2C(C(NC12)=O)C | C16H13NO2
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | water | O | H2O
product | Sodium 2-amino-3-benzoyl-α-methylphenylacetate Hydrate | O.NC1=C(C=CC=C1C(C1=CC=CC=C1)=O)C(C(=O)[O-])C.[Na+] | InChI=1S/C16H15NO3.Na.H2O/c1-10(16(19)20)12-8-5-9-13(14(12)17)15(18)11-6-3-2-4-7-11;;/h2-10H,17H2,1H3,(H,19,20);;1H2/q;+1;/p-1
